US05618941
3,5-Dibromo-α-(4-fluorophenyl)benzenemethanol
A 2.5M solution of n-butyllithium in hexane (44.0 ml) was added dropwise to a stirred suspension of 1,3,5-tribromobenzene (31.5 g) in dry ether (1000 ml) at -78° C. under an atmosphere of dry nitrogen. The resulting mixture was stirred at this temperature for 30 minutes and the 4-fluorobenzaldehyde (13.65 g) was added dropwise. Stirring at -78° C. was continued for a further 30 minutes and then the reaction was quenched by the addition of water. The temperature was allowed to reach room temperature and the organic layer was separated and dried (MgSO4). Evaporation of the solvent gave an oil which was chromatographed on silica gel. The column was eluted with dichloromethane/hexane (1:5), gradually increasing the ratio of solvents to 2:3. The product fractions were combined, evaporated and the residue was triturated with hexane to give the title compound (31.42 g), m.p. 92°-93° C. Found: C,43.75; H,2.43. C13H9Br2OF requires C,43.37; H,2.52%.

reactant | n-butyllithium | C(CCC)[Li]
reactant | 1,3,5-tribromobenzene | 31.5 g | BrC1=CC(=CC(=C1)Br)Br | C6H3Br3
reactant | 4-fluorobenzaldehyde | 13.65 g | FC1=CC=C(C=O)C=C1 | C7H5FO
solvent | hexane | 44.0 ml | CCCCCC | C6H14
solvent | ether | 1000 ml | CCOCC | C4H10O
product | 3,5-Dibromo-α-(4-fluorophenyl)benzenemethanol | 31.42 g | BrC=1C=C(C=C(C1)Br)C(O)C1=CC=C(C=C1)F | C13H9Br2FO
